US06407099B1
To a 10 ml acetonitrile solution of 426 mg of 4,4′-difluorobenzophenone and 841 mg of piperazine, 395 mg of triethylamine was added and stirred at 100° C. for 12 hours. After cooling to room temperature, saturated aqueous sodium hydrogenbicarbonate solution was added, followed by extracting with chloroform. The extract was dried, filtered and concentrated under reduced pressure. The residue obtained was dissolved in 5 ml of trifluoroacetic acid and treated with 520 mg of triethylsilane and 60 mg of concentrated sulfuric acid, and stirred at room temperature for 1 hour. The reaction mixture was adjusted to pH=9 to 11 with 10% aqueous sodium hydroxide solution, followed by extracting with ethyl acetate. The extract was dried, filtered and concentrated under reduced pressure to give a residue, which was purified by silica gel column chromatography (chloroform:methanol:water (2% acetic acid)=65:35:5) to give the above-referenced compound, 1-[4-(4-fluorophenyl)methylphenyl]piperazine in an amount of 305 mg (yield 58%).

reactant | 4,4′-difluorobenzophenone | 426 mg | FC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C13H8F2O
reactant | piperazine | 841 mg | N1CCNCC1 | C4H10N2
reactant | sodium hydrogenbicarbonate | C(O)(O)=O.[Na]
reactant | triethylsilane | 520 mg | C(C)[SiH](CC)CC | C6H16Si
reactant | sulfuric acid | 60 mg | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | triethylamine | 395 mg | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-[4-(4-fluorophenyl)methylphenyl]piperazine | yield 58% | FC1=CC=C(C=C1)CC1=CC=C(C=C1)N1CCNCC1 | C17H19FN2
